### PR TITLE
[Merged by Bors] - feat(Analysis/Real): characterise when `√x ≤ x` and `x ≤ √x`

### PR DESCRIPTION
**Pull request by YaelDillies**
From APAP

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Real/Sqrt.lean [hunk 1]
```diff
@@ -303,6 +303,16 @@ lemma sqrt_le_sqrt_iff' (hx : 0 < x) : √x ≤ √y ↔ x ≤ y := by
 @[simp] lemma isSquare_iff : IsSquare x ↔ 0 ≤ x :=
   ⟨(·.nonneg), (⟨√x, mul_self_sqrt · |>.symm⟩)⟩
 
+@[simp] lemma sqrt_le_self : √x ≤ x ↔ x = 0 ∨ 1 ≤ x := by
+  obtain hx | hx := le_or_gt x 0
+  · simp [sqrt_eq_zero_of_nonpos hx, le_antisymm_iff, hx, not_le.2 (hx.trans_lt zero_lt_one)]
+  · simp [sqrt_le_iff, sq, le_mul_iff_one_le_right hx, hx.le, hx.ne']
```
Comment (themathqueen) [inline Mathlib/Analysis/Real/Sqrt.lean]: another proof for this:

```suggestion
  rw [sqrt_le_iff, ← sub_nonneg (a := x ^ 2), sq, ← mul_sub_one]
  grind [mul_nonneg_iff]
```

File: Mathlib/Analysis/Real/Sqrt.lean [hunk 2]
```diff
@@ -303,6 +303,15 @@ lemma sqrt_le_sqrt_iff' (hx : 0 < x) : √x ≤ √y ↔ x ≤ y := by
 @[simp] lemma isSquare_iff : IsSquare x ↔ 0 ≤ x :=
   ⟨(·.nonneg), (⟨√x, mul_self_sqrt · |>.symm⟩)⟩
 
+@[simp] lemma sqrt_le_self : √x ≤ x ↔ x = 0 ∨ 1 ≤ x := by
```
Comment (themathqueen) [inline Mathlib/Analysis/Real/Sqrt.lean]: should this be simp?

Comment (YaelDillies) [reply Mathlib/Analysis/Real/Sqrt.lean]: Why not? because `x` appears twice on the RHS? I expect that the `x = 0` case will in practice be dispatched quickly

Comment (themathqueen) [reply Mathlib/Analysis/Real/Sqrt.lean]: Yeah. You're probably right though.

**Review by themathqueen — COMMENTED** [review]
Thanks!

maintainer merge

**Review by b-mehta — COMMENTED** [review]
I agree with Yaël that it's reasonable for this to be simp. It could be nice to have a version of this which takes x != 0 as a hypothesis for convenience.

IMO for consistency, this should be named `sqrt_le_self_iff`, because of `Nat.sqrt_le_self`. In particular, while there is an argument that this name is unambiguous, that's extra reasoning steps for a mathlib user to take which I don't think they should have to - let's keep it simple!

**Review by riccardobrasca — COMMENTED** [review]
Thanks!

bors merge
